Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Toradol / Ceftriaxone / Nitroimidazole Derivatives
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ doesn't have a past history presenting with abdominal pain 
and back pain x24 hours. Patient states that his symptoms 
started last night after eating a fatty ___ meal and a piña 
colada. He states that he had diffuse abdominal pain for 2 
hours. He states that the pain continued this morning, but moved 
to his back. The pain is in the right CVA area. No nausea, 
vomiting, diarrhea. No fevers. No urinary symptoms. Patient does 
endorse SOB. ROS otherwise negative.

In the ED, initial vitals were:  T 98, HR 92, BP 164/92, RR 18, 
SPO2 98% on RA. BP subsequently improved to 128/77 while in the 
ED. 

Exam notable for tense abdomen without rebound, guarding, or 
tenderness. He had right CVA tenderness. 

Labs notable for:
--Na 141, K 4.0, Creat 0.9, Glucose 105, eGFR>75
--WBC 10.1, Hgb 12.6, Hct 38.2, Plt 204
--Lymphs: 17.9, AbsNeut: 7.02, AbsMono: 1.06
--___: 13.5  PTT: 150  INR: 1.2
--unremarkable LFTs and lipase
--elevated DDimer at 1465
--lactate 1.8
--UA with trace leuk esterase, trace protein, otherwise 
negative.
 
Past Medical History:
- Abdominal pain (negative H.Pylori ___
- Depression
- Constipation, lifelong
- Hepatitis A
- Intractable fungal balanitis
- Elevated amylase
- Inguinal hernia
- GERD
- Chylamydia
- Globus
- Rectal pain
- Knee pain
- Motor vehicle accident
 
Social History:
___
Family History:
NO family history of cancers or clotting disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Height: ___ Weight: 77.9kgs
VS: T 99.6, BP 126/75, HR 71, RR 18, 96% on RA
Gen: Alert and oriented, in some distress.
HEENT: PERRLA. EOMI. moist mucus membranes
CV: Normal S1/S2, no murmurs, gallops, or rubs.
Pulm: Good airflow bilaterally. No wheezes, rhonchi, or 
crackles. 
Abd: mid-epigastric ttp, negative ___ sign. Hypoactive 
bowel sounds present.
GU: Not examined.
Ext: ___ - No calf pain/ttp during active/passive 
flexion/extension. No erythema, edema, or warmth.
Neuro: UE strength ___ and ___ ___ strength and sensation grossly 
normal. Cranial nerves intact.

DISCHARGE PHYSICAL EXAM:
========================
Vital signs: T 97.2, BP 109/66, HR 69, RR 18, 98% room air
Gen: Alert and oriented, lying comfortably in bed
HEENT: PERRLA. EOMI. moist mucus membranes
CV: Normal S1/S2, no murmurs, gallops, or rubs.
Pulm: Clear to auscultation bilaterally. No wheezes, rhonchi, or 
crackles. 
Abd: NTTP, normal bowel sounds.
GU: Not examined.
Ext: No swelling and 2+ peripheral distal pulses bilaterally
Neuro: UE strength ___ and ___ ___ strength and sensation grossly 
normal. CN II-XII intact.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:30PM   ___ PTT-150* ___
___ 02:10AM   LACTATE-1.8
___ 01:55AM   GLUCOSE-105* UREA N-16 CREAT-0.9 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-28 ANION GAP-14
___ 01:55AM   ALT(SGPT)-13 AST(SGOT)-19 ALK PHOS-75 TOT 
BILI-1.0
___ 01:55AM   LIPASE-47
___ 01:55AM   ALBUMIN-4.4
___ 01:55AM   D-DIMER-1465*
___ 01:55AM   WBC-10.1*# RBC-4.07* HGB-12.6* HCT-38.2* 
MCV-94 MCH-31.0 MCHC-33.0 RDW-12.6 RDWSD-43.7
___ 01:55AM   NEUTS-69.3 LYMPHS-17.9* MONOS-10.5 EOS-1.5 
BASOS-0.5 IM ___ AbsNeut-7.02* AbsLymp-1.81 AbsMono-1.06* 
AbsEos-0.15 AbsBaso-0.05
___ 01:55AM   PLT COUNT-204
___ 01:55AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 01:55AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1

DISCHARGE LABS:
===============
___ 07:44AM BLOOD WBC-11.1* RBC-3.87* Hgb-12.0* Hct-36.8* 
MCV-95 MCH-31.0 MCHC-32.6 RDW-13.0 RDWSD-44.8 Plt ___
___ 07:44AM BLOOD Plt ___
___ 07:44AM BLOOD Glucose-95 UreaN-12 Creat-0.9 Na-139 
K-4.0 Cl-99 HCO3-30 AnGap-14
___ 07:44AM BLOOD Calcium-9.5 Phos-3.1 Mg-2.0

IMAGING:
========
CTA Chest (___): multiple filling defects in the right and left 
lower lobe segmental and subsegmental pulmonary arteries, 
compatible with acute PE's. No evidence of right heart strain. 
Bibasilar atelectasis, no focal consolidations. 8mm right upper 
lobe nodule, which should be followed up with a CT in ___ months 
if patient has lung cancer risk factors; if low risk for lung 
cancer, recommend follow-up CT in ___bdomen and pelvis (___): Moderately distended distal small 
bowel loops with fecal contents without definite transition 
point, may reflect early or partial SBO. Extensive stool burden 
throughout the entire colon with no free air free fluid. No 
evidence of hydronephrosis or nephrolithiasis.

RUQ ultrasound (___): Normal findings with no evidence of 
stones or gallbladder wall thickening. The hepatic parenchyma 
appears within normal limits. The contour of the  liver is 
smooth. There is no focal liver mass. The main portal vein is 
patent  with hepatopetal flow. There is no ascites.  There is no 
intrahepatic biliary dilation. The CHD measures 4 mm. The imaged 
portion of the pancreas appears within normal limits, without 
masses or pancreatic ductal dilation, with portions of the 
pancreatic tail obscured by overlying bowel gas. Limited views 
of the right kidney show no hydronephrosis. There is a small 
cyst in the right kidney. The visualized portions of aorta and 
IVC are within normal limits.

CXR (___): The cardiomediastinal and hilar contours are within 
normal limits. The lungs are clear without focal consolidation, 
pleural effusion or pneumothorax. No acute cardiopulmonary 
process.
 
Brief Hospital Course:
___ man who presents with epigastric and right flank pain with 
radiation to the back subsequently found on CTA to have 
bilateral pulmonary emboli.

ACTIVE ISSUES: 
==========================
#Pulmonary embolism: Patient had recent long trip to ___ this 
___, subsequently had pleuritic pain, SOB, went to the ED 
and found to have elevated D-Dimer and submassive bilateral 
pulmonary emboli on CTA with ground glass opacities concerning 
for pulmonary infarction. He was hemodynamically stable, 
saturating well on room air. Very low PESI score of 75. He was 
started on a heparin drip on admission. The following day 
(___) he was transitioned to rivaroxaban 15mg. He will 
take 15mg of rivaroxaban BID for 21 days, and then will take 
20mg once daily until told to stop by his PCP. He will follow up 
at ___ on ___. No hypercoagulability workup 
was performed.

#Pain: He complained of pleuritic pain on admission, thought to 
be due to his PE given changes c/f infarction on CT scan.  He 
remained hemodynamically stable throughout his hospital stay. He 
was given IV morphine and Dilaudid in the ED. The following 
morning (___), he required only 0.5mg IV Dilaudid. His 
pain was well controlled throughout the day with standing 
Tylenol. He will go home with Tylenol as well as 5mg Oxycodone 
(8 tablets) and a bowel regimen. Pt counseled on side effects 
and addiction potential with opiates. 
 
CHRONIC ISSUES: 
==========================
#Constipation: Patient has a history of constipation. He had a 
BM on the day prior to discharge. He was given a prescription 
for senna, dulcolax, miralax, and Colace. He will follow up with 
his PCP for further management of his constipation.

TRANSITIONAL ISSUES
==========================
-5mm right upper lobe nodule, which should be followed up with a 
CT in ___ months if patient has lung cancer risk factors; if low 
risk for lung cancer, recommend follow-up CT in ___ months
-He has an appointment ___ with ___ for follow-up 
for his pain and anticoagulation care.
-He was started on Rivaroxaban. He will take 15mg BID for 21 
days, and then take 20mg daily, with the course to be determined 
by his PCP.
-No hypercoagulability studies were performed. Consider doing 
this as an outpatient.
-Patient advised to consider outpatient colonoscopy for 
screening. 
-He was given 5mg Oxycodone (8 tablets) for pain. Make sure his 
patient is well controlled as an outpatient.
-___ need further constipation management with pain medication.
-Code status: Full
-Emergency contact: No healthcare proxy in system. Consider 
talking with patient in this regard.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Every 8 hours Disp 
#*30 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY Constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice a day as 
needed Disp #*30 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 6 hours as 
needed Disp #*8 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 g powder(s) by 
mouth Daily as needed Refills:*0 
6.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0 
7.  Rivaroxaban 20 mg PO DAILY 
with food 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1 
8.  Senna 8.6 mg PO BID Constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Twice a day as 
needed Disp #*30 Tablet Refills:*0 
9.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Pulmonary embolism

Secondary diagnosis:
Pain
Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for a blood clot in your lungs 
(pulmonary embolism). You were given blood thinners and you got 
better. Initially, you were on an intravenous blood thinner. 
Then, we transitioned you to an oral medication, which you will 
go home with. This medication is called Xerelto (or rivaroxaban) 
and you will take 1 tablet of 15 mg twice a day for 3 weeks. 
Then, you will take one tablet of 20 mg (higher than the 
previous tablets) until Dr. ___ you to stop. You will 
follow up with Health Care Associates at ___ on ___ at 2:30 
pm. Dr. ___ is out of town so you will see one of her 
associates. You will also go home with a lot of bowel movement 
medications as well as Tylenol and oxycodone for pain.

Best wishes,

-Your ___ medicine team
 
Followup Instructions:
___